US06828460B2
(±)-N-{3-[2,4-Bis(methoxymethoxy)phenyl]cyclohexyl}methanesulfonamide
Triethylamine (0.014 ml) and methanesulfonyl chloride (8 μl) were added to a solution of (±)-3-[2,4-bis(methoxymethoxy)phenyl]cyclohexylamine (27 mg) in dichloromethane (1 ml), and the mixture was stirred under argon at ambient temperature. After 1 hr, the mixture was partitioned between ethyl acetate (20 ml) and sodium hydrogen carbonate (20 ml of a saturated aqueous solution). The aqueous layer was extracted with ethyl acetate (2×20 ml), and the combined organic extracts were dried over magnesium sulfate and evaporated in vacuo to furnish the title compound as an oil and a mixture of diastereoisomers; m/z (ES+) 374 (M+H)+.

reactant | Triethylamine | 0.014 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 8 μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | (±)-3-[2,4-bis(methoxymethoxy)phenyl]cyclohexylamine | 27 mg | COCOC1=C(C=CC(=C1)OCOC)C1CC(CCC1)N | C16H25NO4
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | (±)-N-{3-[2,4-Bis(methoxymethoxy)phenyl]cyclohexyl}methanesulfonamide | COCOC1=C(C=CC(=C1)OCOC)C1CC(CCC1)NS(=O)(=O)C | C17H27NO6S
